US04022900
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline was reacted with 2-iodobenzoyl chloride according to the procedure of Example 19 to yield 5-(2-iodobenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline; m.p. 215°-216.5° C. after purification from methanol.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 2-iodobenzoyl chloride | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
product | 5-(2-iodobenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | IC1=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C=CC=C1 | C17H17IN2O
